US09315490B2
(1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-methyl-1H-indol-6-yl)(morpholino)methanone (Compound No. 87)
Palladium(II) acetate (8 mg, 0.036 mmol) and Xantphos (42 mg, 0.072 mmol) were added under an argon atmosphere to a solution of 2-chloro-5-(2-fluorophenyl)pyrimidine (150 mg, 0.72 mmol), (3-methyl-1H-indol-6-yl)(morpholino)methanone (176 mg, 0.72 mmol; synthesized from morpholine and 3-methyl-1H-indole-6-carboxylic acid) and cesium carbonate (422 mg, 1.29 mmol) in dry THF (5 mL). The reaction mixture was heated in a microwave at 120° C. for 1 h. After cooling to room temperature, water was added and the mixture was extracted with ethyl acetate (2×15 mL). Purification by flash chromatography [silica, heptane with 25% to 75% ethyl acetate] afforded the target compound as white solid. Yield: 185 mg (62% of theory). HPLC-MS: m/z [M+H]+=417.1

reactant | Xantphos | 0.072 mmol, 42 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 2-chloro-5-(2-fluorophenyl)pyrimidine | 0.72 mmol, 150 mg | ClC1=NC=C(C=N1)C1=C(C=CC=C1)F | C10H6ClFN2
reactant | (3-methyl-1H-indol-6-yl)(morpholino)methanone | 0.72 mmol, 176 mg | CC1=CNC2=CC(=CC=C12)C(=O)N1CCOCC1 | C14H16N2O2
reactant | cesium carbonate | 1.29 mmol, 422 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Palladium(II) acetate | 0.036 mmol, 8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | (1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-methyl-1H-indol-6-yl)(morpholino)methanone | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)C | C24H21FN4O2
